US05206367
3-chloro-5-ureido-5,6,7,8-tetrahydroquinoline-5-carboxylic acid
3-Chlorospiro-[5,6,7,8-tetrahydroquinolin-5,4'-imidazolidine]-2',5'-dione (133.2 grams, 0.53 mol) and sodium hydroxide (70 grams, 1.75 mol) in water (500 ml) was refluxed for 48 hours. The reaction was cooled to 20° C. and the pH adjusted to about 7 by the addition of HCl (first conc. HCl, then 3N as neutrality is reached). Potassium cyanate (8.59 grams, 1.06 mol) was added carefully in portions over 30 minutes and the reaction stirred at room temperature for 4 hours, then at 60° C. overnight. Additional potassium cyanate (40 grams, 0.53 mol) was added in the morning and the reaction stirred for 48 hour at 60° C. During the reaction with cyanate, the pH of the reaction became basic and was periodically adjusted to ca. pH 7.5. The reaction mixture was stirred with a small amount of activated carbon and filtered. The filtrate was cooled to 5° to 10° C. and acidified to pH 3.5 with 6N HCl. The precipitate was collected, washed with water and slurried in acetone (500 ml). The product was filtered and dried in vacuo. 96 grams; 67.3% yield. mp 188°-89.5° C. NMR (DMSO-d6, 300 MHz) δ8.43 (d, 1), 7.94 (d, 1), 6.92 (s, 1), 5.72 (s, 1), 2.83 (t, 2), 2.26 (m, 1), 2.12 (m, 1), 1.90 (m, 2).

reactant | 3-Chlorospiro-[5,6,7,8-tetrahydroquinolin-5,4'-imidazolidine]-2',5'-dione | 0.53 mol, 133.2 grams | ClC=1C=NC=2CCCC3(NC(NC3=O)=O)C2C1 | C11H10ClN3O2
reactant | sodium hydroxide | 1.75 mol, 70 grams | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | Potassium cyanate | 1.06 mol, 8.59 grams | [O-]C#N.[K+]
reactant | potassium cyanate | 0.53 mol, 40 grams | [O-]C#N.[K+]
reactant | cyanate | [O-]C#N
solvent | water | 500 ml | O | H2O
product | 3-chloro-5-ureido-5,6,7,8-tetrahydroquinoline-5-carboxylic acid | 67.3% yield | ClC=1C=NC=2CCCC(C2C1)(C(=O)O)NC(=O)N | C11H12ClN3O3
